US07989634B2
Step b: Methyl 1-BOC-2-aziridine carboxylate
To a solution of methyl 1-benzyl-2-aziridinecarboxylate (1.00 g, 5.23 mmol) and di-t-butyl-dicarbonate (1.34 g, 5.75 mmol), prepared in Step A, in methanol (20 mL) was added portionwise Pd/C (300 mg). The mixture was stirred at rt under hydrogen for 24 h and filtered though Celite. The filtrate was concentrated in vacuo, and the residue was purified by column chomatography (EtOAc/Hex=2/1) to give the title compound (985 mg, 91.0%).

reactant | methyl 1-benzyl-2-aziridinecarboxylate | 5.23 mmol, 1.00 g | C(C1=CC=CC=C1)N1C(C1)C(=O)OC | C11H13NO2
reactant | di-t-butyl-dicarbonate | 5.75 mmol, 1.34 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | Methyl 1-BOC-2-aziridine carboxylate | 985 mg, 91.0% | C(=O)(OC(C)(C)C)N1C(C1)C(=O)OC | C9H15NO4
